US09376422B2
To a stirred solution of methyl 3-amino-5-chloro-2-methylbenzoate (1 g, 5.02 mmol) and cyclohexanone (2.45 g, 25 mmol) in methanol (10 mL), acetic acid (0.3 g, 5.02 mmol) was added and reaction stirred at room temperature for 3 h. Then sodium cyanoborohydride (0.63 g, 10.05 mmol) was added and reaction stirred overnight. On completion, solvent was removed under reduced pressure and crude material was purified by column chromatography to afford methyl 5-chloro-3-(cyclohexylamino)-2-methylbenzoate (1.2 g, 89.92%).

reactant | methyl 3-amino-5-chloro-2-methylbenzoate | 5.02 mmol, 1 g | NC=1C(=C(C(=O)OC)C=C(C1)Cl)C | C9H10ClNO2
reactant | cyclohexanone | 25 mmol, 2.45 g | C1(CCCCC1)=O | C6H10O
reactant | acetic acid | 5.02 mmol, 0.3 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 10.05 mmol, 0.63 g | C(#N)[BH3-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | methyl 5-chloro-3-(cyclohexylamino)-2-methylbenzoate | 1.2 g, 89.92% | ClC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCCCC1 | C15H20ClNO2
